US04122265
In accordance with the procedure described in Example 2, 2.85 g. of 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid amide are reacted with 0.02 mol. of diethylaminoethyl chloride. The methylene chloride extract containing the free base is concentrated to dryness and the pasty residue chromatographed on 300 g. of aluminum oxide (neutral, Brockmann, activity I) using methylene chloride/ethyl acetate (4:1) for the elution. The homogeneous fractions are combined and evaporated. The residual solid residue is dissolved in 10 ml. of acetone and treated with excess ethereal hydrochloric acid. The hydrochloride which crystallizes out is removed by filtration and washed with diethyl ether, whereby there is obtained 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid[ 2-(diethylamino)ethyl]amide hydrochloride having a melting point of 211°-214° C. (decomposition).

reactant | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid amide | ClC1=CC2=C(N(C(=C2C=C1)C(=O)N)C)C1=CC=CC=C1 | C16H13ClN2O
reactant | diethylaminoethyl chloride | C(C)N(CC)CCCl | C6H14ClN
product | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid[ 2-(diethylamino)ethyl]amide hydrochloride | Cl.C(C)N(CCNC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C)CC | InChI=1S/C22H26ClN3O.ClH/c1-4-26(5-2)14-13-24-22(27)21-18-12-11-17(23)15-19(18)20(25(21)3)16-9-7-6-8-10-16;/h6-12,15H,4-5,13-14H2,1-3H3,(H,24,27);1H
